US20010029300A1
Methyl N-[(S)-1-(4-methoxyphenyl)ethyl]-(S)-3-amino-3-(3-pyridyl)propanoate
The crude methyl N-[(S)-1-(4-methoxyphenyl)ethyl]-3-amino-3-(3-pyridyl)propenoate, (40.6 g, 130 mmol) was dissolved in methanol (200 mL) and mixed with 20% Pd(OH)2/C (4.1 g). The mixture was hydrogenated under atmospheric pressure for 30 h. The mixture was diluted with ethyl acetate (50 mL) and filtered through celite (20 g) to remove the catalyst. The celite was washed with hot (70° C.) ethyl acetate (200 mL). The combined filtrate was concentrated under reduced pressure to near dryness to an oily residue. Crude amine (27.5 g) was dissolved in hot ethyl acetate (40 mL). The resulting hot yellow solution was filtered and rinsed with 15 mL of hot ethyl acetate. The clear solution was concentrated to <50 mL and allowed to stand at room temperature overnight. The resulting white crystalline solid was collected by filtration and washed with cold ethyl acetate (EtOAc) (˜15-20 mL), then air dried. Yield of isolated solid: 15.5 g. HPLC analysis showed >99% desired diastereomer. A second crop was obtained from the filtrate after concentration to about 20 mL. Yield: 1.7 g identical by HPLC to first crop; total yield: 17.2 g (62.5%)

reactant | methyl N-[(S)-1-(4-methoxyphenyl)ethyl]-3-amino-3-(3-pyridyl)propenoate | 130 mmol, 40.6 g | COC1=CC=C(C=C1)[C@H](C)NC(=CC(=O)OC)C=1C=NC=CC1 | C18H20N2O3
solvent | methanol | 200 mL | CO | CH4O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd(OH)2/C | 4.1 g | [OH-].[OH-].[Pd+2]
product | Methyl N-[(S)-1-(4-methoxyphenyl)ethyl]-(S)-3-amino-3-(3-pyridyl)propanoate | COC1=CC=C(C=C1)[C@H](C)N[C@@H](CC(=O)OC)C=1C=NC=CC1 | C18H22N2O3
